US08859535B2
1-(4-iodophenyl)-1-(3-methoxyphenyl)ethanol
A solution of 4-iodoacetophenone (2 g, 7.97 mmol) in THF (20 ml) was immersed in an ice-bath and (3-methoxyphenyl)magnesium bromide 1M in THF (23.90 ml, 23.90 mmol) was added slowly by syringe. The reaction mixture was stirred at r.t. for 3 hrs. The reaction mixture was quenched with 20 ml aqueous saturated NH4Cl solution and diluted with ethyl acetate. The organic phase was separated and washed with brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude product which was purified by automated column chromatography (n-heptane (isom. mixture)/ethyl acetate). Organic solvents were removed to obtain title compound as yellowish oil.

reactant | 4-iodoacetophenone | 7.97 mmol, 2 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | (3-methoxyphenyl)magnesium bromide | 1M | COC=1C=C(C=CC1)[Mg]Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 23.90 mmol, 23.90 ml | C1CCOC1 | C4H8O
product | 1-(4-iodophenyl)-1-(3-methoxyphenyl)ethanol | IC1=CC=C(C=C1)C(C)(O)C1=CC(=CC=C1)OC | C15H15IO2
